US05223498
A mixture of 2-methyl-1-(5-chloro-2-morpholinophenyl)-3-(n-butyl)-2-thiopseudourea hydroiodide (3.4 g) and a 33% ethanolic solution of methylamine (10 ml) were stored at ambient temperature in a sealed container for 8 months to yield 1,3-dimethyl-2-(5-chloro-2-morpholinophenyl)guanidine (m.p. 145°-146° C.) which was recrystallised from hexane. In this reaction the butylamino and the methylthio group of the starting material are replaced by a methylamino group.

reactant | 2-methyl-1-(5-chloro-2-morpholinophenyl)-3-(n-butyl)-2-thiopseudourea hydroiodide | 3.4 g | I.CSC(NC1=C(C=CC(=C1)Cl)N1CCOCC1)=NCCCC
reactant | methylamine | 10 ml | CN | CH5N
product | 1,3-dimethyl-2-(5-chloro-2-morpholinophenyl)guanidine | CNC(=NC1=C(C=CC(=C1)Cl)N1CCOCC1)NC | C13H19ClN4O
